US07834194B2
(5-Bromo-benzo[b]thiophen-2-yl)-methanol
Dissolve 5-bromo-benzo[b]thiophene-2-carboxylic acid (21.2 g, 82.5 mmol) in THF (150 mL). Cool to 0° C. with an ice bath. Add 2M BH3 dimethyl sulfide complex in THF (82.5 mL). Stir to room temperature over 2 hours. Quench by careful addition of water. Partition between ether and saturated NaHCO3, wash with water, brine, dry, and concentrate. Purify via column chromatography eluting with 3:1 hexanes:ethyl acetate to afford a white solid (10.3 g): 1H NMR (CDCl3) δ 7.87 (m, 1H), 7.67 (d, 1H), 7.41 (dd, 1H), 7.15 (m, 1H), 4.94 (d, 2H), 1.91 (t, 1H).

reactant | 5-bromo-benzo[b]thiophene-2-carboxylic acid | 82.5 mmol, 21.2 g | BrC1=CC2=C(SC(=C2)C(=O)O)C=C1 | C9H5BrO2S
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 82.5 mL | C1CCOC1 | C4H8O
product | (5-Bromo-benzo[b]thiophen-2-yl)-methanol | 10.3 g | BrC1=CC2=C(SC(=C2)CO)C=C1 | C9H7BrOS
